US04231782
n-Butyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate (9.5 g., 0.24 mole) was dissolved in 150 ml. of diethyl ether. To this solution was added 3-phenylpropylthiol (7.3 g., 0.48 mole) and then triethylamine (4.8 g., 0.048 mole) dissolved in 100 ml. of diethyl ether. This mixture was then stirred for 16 hours at ambient temperature, filtered to remove the triethylamine hydrochloride, washed with a 3% solution of ammonium hydroxide and then 5% hydrochloric acid and then with brine. The ether solution was dried over sodium sulfate, filtered and then concentrated under vacuum to yield a crude product. The crude product was chromatographed on a silica gel column employing methylene chloride and diethyl ether. Concentration of the ether eluant yielded n-butyl N-carbobenzoxy-N-[di(3-phenylpropylthio)phosphonomethyl]glycinate as a light yellow oil, ND25 =1.5685 and having the following analysis.

reactant | n-Butyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate | 0.24 mole, 9.5 g | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCCCC)CP(=O)(OCl)OCl | C15H20Cl2NO7P
reactant | 3-phenylpropylthiol | 0.48 mole, 7.3 g | C1=CC=C(C=C1)CCCS | C9H12S
reactant | triethylamine | 0.048 mole, 4.8 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
product | n-butyl N-carbobenzoxy-N-[di(3-phenylpropylthio)phosphonomethyl]glycinate | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCCCC)CP(=O)(OSCCCC1=CC=CC=C1)OSCCCC1=CC=CC=C1 | C33H42NO7PS2
